US07067529B2
To a stirred solution of 6-hydroxy-7-methoxy-1-(3-ethoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester (6 g, 0.59 mmol) in pyridine (112 mL) was added acetic anhydride (56 mL). The reaction mixture was stirred at room temperature for 15 hrs. The mixture was concentrated in vacuo to afford 6-acetoxy-7-methoxy-1-(3-ethoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester. The crude product was used without further purification.

reactant | 6-hydroxy-7-methoxy-1-(3-ethoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester | 0.59 mmol, 6 g | C(C)OC(=O)N1C(C2=CC(=C(C=C2C=C1)O)OC)CC1=CC(=CC=C1)OCC | C22H25NO5
reactant | acetic anhydride | 56 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 112 mL | N1=CC=CC=C1 | C5H5N
product | 6-acetoxy-7-methoxy-1-(3-ethoxy-benzyl)-1H-isoquinoline-2-carboxylic acid ethyl ester | C(C)OC(=O)N1C(C2=CC(=C(C=C2C=C1)OC(C)=O)OC)CC1=CC(=CC=C1)OCC | C24H27NO6
